US04107279
U.S. Pat. No. 3,661,516 describes a process in which the reaction of sulfur trioxide and ammonia is carried out in the presence of an amount of ammonia exceeding the amount stoichiometrically necessary for the formation of ammonium amidosulfonate, and at a temperature at which a melted reaction mixture is obtained. The hot reaction mixture is to be reacted preferably with water, in which process step ammonium amidosulfonate, amidosulfonic acid and ammonium sulfate are formed from ammonium-imidodisulfonate and ammonium-nitrilo-trisulfonate. By adding strong mineral acids, the crystallization may be carried on.

reactant | sulfur trioxide | S(=O)(=O)=O | O3S
reactant | ammonia | N | H3N
reactant | ammonium amidosulfonate | NS(=O)(=O)[O-].[NH4+]
reactant | amidosulfonic acid | NS(=O)(=O)O | H3NO3S
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | water | O | H2O
product | ammonium nitrilo-trisulfonate | [NH4+].N(S(=O)(=O)[O-])(S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/H3NO9S3.H3N/c2-11(3,4)1(12(5,6)7)13(8,9)10;/h(H,2,3,4)(H,5,6,7)(H,8,9,10);1H3/p-2
